US08293768B2
Synthesis of 5-(1-(4-fluorobenzyl)-5-oxo-1H-1,2,4-triazol-4(5H)-yl)-3-methyl-N-((2-methylthiazol-4-yl)methyl)thiophene-2-carboxamide
Following the procedure as described in Example 31, making variations as required to replace 3-(aminomethyl)pyridine with 1-(2-methyl-1,3-thiazol-4-yl)methylamine dihydrochloride to react with 5-(1-(4-fluorobenzyl)-5-oxo-1H-1,2,4-triazol-4(5H)-yl)-3-methylthiophene-2-carboxylic acid, the title compound was obtained as a colorless solid in 80% yield: mp 148-150° C.; 1H NMR (300 MHz, CDCl3) δ 7.71 (s, 1H), 7.40-7.33 (m, 2H), 7.07-6.99 (m, 2H), 7.03 (s, 1H), 6.89 (s, 1H), 6.50 (t, J=4.9 Hz, 1H), 4.96 (s, 2H), 4.62 (d, J=4.9 Hz, 2H), 2.69 (s, 3H), 2.50 (s, 3H); 13C NMR (75 MHz, CDCl3) δ 166.7, 162.6 (d, JC-F=247.1 Hz), 162.2, 151.8, 150.4, 140.0, 134.5, 132.4, 131.2 (d, JC-F=3.3 Hz), 130.3 (d, JC-F=8.3 Hz), 126.1, 120.4, 115.7 (d, JC-F=21.7 Hz), 115.0, 48.9, 40.0, 19.1, 16.0; MS (ES+) m/z 444.1 (M+1).

reactant | 3-(aminomethyl)pyridine | NCC=1C=NC=CC1 | C6H8N2
reactant | 1-(2-methyl-1,3-thiazol-4-yl)methylamine dihydrochloride | Cl.Cl.CC=1SC=C(N1)CN
reactant | 5-(1-(4-fluorobenzyl)-5-oxo-1H-1,2,4-triazol-4(5H)-yl)-3-methylthiophene-2-carboxylic acid | FC1=CC=C(CN2N=CN(C2=O)C2=CC(=C(S2)C(=O)O)C)C=C1 | C15H12FN3O3S
product | 5-(1-(4-fluorobenzyl)-5-oxo-1H-1,2,4-triazol-4(5H)-yl)-3-methyl-N-((2-methylthiazol-4-yl)methyl)thiophene-2-carboxamide | 80% yield | FC1=CC=C(CN2N=CN(C2=O)C2=CC(=C(S2)C(=O)NCC=2N=C(SC2)C)C)C=C1 | C20H18FN5O2S2
